US07592453B2
To a solution of the compound (13 g, 40.2 mmol) synthesized in Reference Example 8 and (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid (11.7 g, 48.2 mmol) in DMF (200 ml) were added dropwise triethylamine (16.9 ml, 121 mmol) at 0° C. and subsequently a solution of DEPC (6.74 ml, 40.2 mmol) in DMF (40 ml). The mixture was stirred at the same temperature for 30 min., saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted twice with ethyl acetate. The extract was washed with saturated brine and dried (over anhydrous MgSO4). After concentration under reduced pressure, the obtained residue was subjected to column chromatography using silica gel, and eluted with hexane-ethyl acetate (10:1-1:1, v/v). tert-Butyl (1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylcarbamate (9.57 g, 50%) was obtained as a colorless amorphous form from the first object eluted fraction.

reactant | (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | 48.2 mmol, 11.7 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)C(=O)O | C12H21NO4
reactant | triethylamine | 121 mmol, 16.9 ml | C(C)N(CC)CC | C6H15N
reactant | DEPC | 40.2 mmol, 6.74 ml | CCOC(=O)OC(=O)OCC | C6H10O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylcarbamate | 9.57 g, 50% | C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(OC(C)(C)C)=O | C29H37N3O3
